US04927838
As in Example 111, 6-methoxy-3-pentyl-2-benzofurancarboxaldehyde (4.82 g) and (carbomethoxymethylene)triphenylphosphorane (6.7 g) in dichloromethane (75 mL) was stirred at room temperature for 42 hours. Purification of the crude reaction product by HPLC (diethyl ether-hexane; 1:12) gave 4.55 g of (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid methyl ester as an oil.

reactant | 6-methoxy-3-pentyl-2-benzofurancarboxaldehyde | 4.82 g | COC1=CC2=C(C(=C(O2)C=O)CCCCC)C=C1 | C15H18O3
reactant | (carbomethoxymethylene)triphenylphosphorane | 6.7 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid methyl ester | 4.55 g | COC(\C=C\C=1OC2=C(C1CCCCC)C=CC(=C2)OC)=O | C18H22O4
